US06288082B1
N-{4-[3-Chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-3-cyano-quinolin-6-yl}-acrylamide
Dissolved most of 1.00 g (2.46 mmol) 6-amino-4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-quinoline-3-carbonitrile in 3.5 ml hot DMF, added 12 ml THF and chilled to 0° C. Added 377 μl triethyl amine and 225 μl (2.70 mmol) acryloyl chloride. Removed ice bath at 15 minutes and stripped solvent at 2 hours. Slurried residue in water, collected solids and air dried overnight. Boiled in ethyl acetate, collected solids and dried in vacuo, giving 670 mg of yellow-brown solid: mass spectrum (electrospray m/e): M+H=461.1, 462.2.

reactant | 6-amino-4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-quinoline-3-carbonitrile | 2.46 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)SC=1N(C=CN1)C)Cl | C20H15ClN6S
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | triethyl amine | 377 μl | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 2.70 mmol, 225 μl | C(C=C)(=O)Cl | C3H3ClO
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | N-{4-[3-Chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-3-cyano-quinolin-6-yl}-acrylamide | 670 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC=C(C=C12)NC(C=C)=O)C#N | C23H17ClN6OS
